US06103910
a) (S)-1-[6-[(S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 1.0 g (4.1 mmol) L-Proline benzyl ester hydrochloride and 300 mg (2.1 mmol) adipic acid afforded, after flash chromatography (EtOAc), 1.07 g (100%) of the title compound as a colorless oil.

reactant | L-Proline benzyl ester hydrochloride | 4.1 mmol, 1.0 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | adipic acid | 2.1 mmol, 300 mg | C(CCCCC(=O)O)(=O)O | C6H10O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-1-[6-[(S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 1.07 g, 100% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C(CCCCC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C30H36N2O6
